US06479531B1
5-(2-Adamantan-1-yl-ethyl)-2-pyridine-4-yl-1H-imidazole-4-carboxylic acid (prepared according to the procedure of Example 70, steps a and b, with the modification that pyridine-4-carboxaldehyde was used instead of 2-dimethylamino-benzaldehyde in step a) was reacted with 3-amino-benzoic acid benzyl ester according to the procedure of Example 177, step a to afford 3-{[5-(2-adamantan-1-yl-ethyl)-2-pyridine-4-yl-1H-imidazole-4-carbonyl]-amino}-benzoic acid benzyl ester. The benzyl group was removed following the procedure of Example 1, step e, to afford the title compound as a white solid. 1H NMR (300 MHz, d6-DMSO) 13.20 (1H, br s), 9.88 (1H, s), 8.67 (2H, dd), 8.47 (1H, s), 8.00 (3H, m), 7.64 (1H, d), 7.41 (1H, t), 3.01 (2H, m), 1.95 (3H, br s), 1.65 (6H, m), 1.55 (6H, s), 1.44 (2H, m). The product was converted to the maleic acid salt and lyophilised from water/dioxan. Found: C, 60.81; H, 6.48; N, 8.95%. C32H34N4O7.2.5 mols H2O requires: C, 60.85; H, 6.22; N, 8.87%.

reactant | 5-(2-Adamantan-1-yl-ethyl)-2-pyridine-4-yl-1H-imidazole-4-carboxylic acid | C12(CC3CC(CC(C1)C3)C2)CCC2=C(N=C(N2)C2=CC=NC=C2)C(=O)O | C21H25N3O2
reactant | pyridine-4-carboxaldehyde | N1=CC=C(C=C1)C=O | C6H5NO
reactant | 3-amino-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=CC(=CC=C1)N)=O | C14H13NO2
product | 3-{[5-(2-adamantan-1-yl-ethyl)-2-pyridine-4-yl-1H-imidazole-4-carbonyl]-amino}-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=CC(=CC=C1)NC(=O)C=1N=C(NC1CCC12CC3CC(CC(C1)C3)C2)C2=CC=NC=C2)=O | C35H36N4O3
